US05942516
a) 1-Methoxy-3,4-methylenedioxybenzene
To a solution of sesamol (10.0 g, 0.072 mol) in DMF (50 ml) was added sodium hydride (2.08 g, 0.087 mol) at room temperature under argon. After stirring for 1 h, the mixture was treated with iodomethane (13.5 ml, 0.216 mol) and stirred for another 18 h. Upon the removal of the solvent the residue was extracted with ethyl acetate and washed with water, dried (Na2SO4) and concentrated to afford the title compound as a dark brown oil (10.5 g, 96%).

reactant | sesamol | 0.072 mol, 10.0 g | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | sodium hydride | 0.087 mol, 2.08 g | [H-].[Na+]
reactant | iodomethane | 0.216 mol, 13.5 ml | IC | CH3I
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-Methoxy-3,4-methylenedioxybenzene | 10.5 g, 96% | COC1=CC2=C(C=C1)OCO2 | C8H8O3
